US08859768B2
To a round bottom flask was added methyl 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylate (2.30 g, 6.0 mmol), THF (20 mL), MeOH (30 mL), and 1M aqueous NaOH (25 mL). The reaction mixture was allowed to stir at rt overnight. The mixture was concentrated and 1M aqueous HCl was added until the solution became acidic. The mixture was filtered and the solid was dried to give 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylic acid (Compound I-6) (1.4 g, 64%). LCMS (FA): m/z=372.2 (M+H).

reactant | methyl 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylate | 6.0 mmol, 2.30 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)OC)C1=C(C=CC=C1)Cl)C | C19H16ClN3O4
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1M, 25 mL | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylic acid | 1.4 g, 64% | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)O)C1=C(C=CC=C1)Cl)C | C18H14ClN3O4
